US04918206
A mixed solution of 2,3-dichlorophenol (16.3 g, 0.10 mol), chloromethyl methyl ether (9.7 g, 0.12 mol), anhydrous potassium carbonate (27.6 g, 0.20 mol), and acetonitrile (150 ml) is stirred at a temperature between 50° C. and 60° C. for 40 minutes and evaporated under reduced pressure to remove acetonitrile. The residue is dissolved in methylene chloride, washed with water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to give 20.8 g (Yield 100%) of 2,3-dichlorophenyl methoxymethyl ether as a pale yellow oil. To a hexane solution (35 ml) of 8.12 g (0.07 mol) of N,N,N',N'-tetramethylethylenediamine is dropwise added 50 ml of 15% hexane solution of butyl lithium while being stirred at a temperature of -10° C. to 0° C. and the mixture is stirred for 15 minutes.

reactant | 2,3-dichlorophenol | 0.10 mol, 16.3 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | chloromethyl methyl ether | 0.12 mol, 9.7 g | COCCl | C2H5ClO
reactant | potassium carbonate | 0.20 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,3-dichlorophenyl methoxymethyl ether | 20.8 g, Yield 100% | COCOC1=C(C(=CC=C1)Cl)Cl | C8H8Cl2O2
